US06987114B1
1-(Pyridin-2-ylmethyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 2-picolyl chloride were reacted by the same way with the example 1 to obtain the titled compound (136 mg, yield: 37.2%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | 2-picolyl chloride | N1=C(C=CC=C1)CCl | C6H6ClN
product | 1-(Pyridin-2-ylmethyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 136 mg, yield: 37.2% | N1=C(C=CC=C1)CN1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C21H23N3O3
